US08633207B2
To a mixture of 4-nitro-1H-imidazole (2.0 g, 17.7 mmol) and K2CO3 (3.67 g, 26.6 mmol) in acetonitrile (18 mL) was added iodomethane (1.32 mL, 21.2 mmol) and the mixture was heated in a sealed vial at 60° C. overnight. The mixture was filtered washing with acetone. The filtrate was concentrated under reduced pressure, and the residue was diluted with hot isopropanol and cooled, and the precipitated solid was collected by filtration. The solid was dissolved in chloroform and filtered, and the filtrate was concentrated under reduced pressure. The residue was triturated with propan-2-ol and collected by filtration to afford 1-methyl-4-nitro-1H-imidazole (1.03 g, 46%) as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 8.37 (d, J=1.1 Hz, 1H), 7.82 (s, 1H), 3.76 (s, 3H).

reactant | 4-nitro-1H-imidazole | 17.7 mmol, 2.0 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | K2CO3 | 26.6 mmol, 3.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 21.2 mmol, 1.32 mL | IC | CH3I
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
product | 1-methyl-4-nitro-1H-imidazole | 1.03 g, 46% | CN1C=NC(=C1)[N+](=O)[O-] | C4H5N3O2
